US08580958B1
2,2,5-Trimethyl-5-hydroxymethyl-1,3-dioxane
4-Toluenesulfonic acid monohydrate (51.3 g) in acetone (275 mL) was stirred with 2,2-dimethoxy propane (75 mL) and toluenesulfonic acid monohydrate (1.3 g) for 18 hr at room temperature, and worked up in a similar manner as indicated in the procedure above, 52.12 g (76% yield), b.p. 72-75° C./0.65 mmHg. Mass spec: m/z 161 (M++1). Anal Calcd for C8H15O3: C, 59.98; H, 10.07%. Found: C, 59.62; H, 10.07%. 1H NMR (CDCl3) δ ppm: 0.83 (s, 3H), 1.40 (s, 3H), 1.44 (s, 3H), 3.59-3.69 (m, 6H). 13C NMR: 17.69, 20.25, 27.41, 34.86, 65.90, 66.43, 98.1 (7 sp3C).

reactant | 4-Toluenesulfonic acid monohydrate | 51.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2,2-dimethoxy propane | 75 mL | COC(C)(C)OC | C5H12O2
reactant | toluenesulfonic acid monohydrate | 1.3 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | acetone | 275 mL | CC(=O)C | C3H6O
product | 2,2,5-Trimethyl-5-hydroxymethyl-1,3-dioxane | CC1(OCC(CO1)(CO)C)C | C8H16O3
